US08389536B2
Step 3: Cyclopentyl-(5-phenylethynyl-pyrimidin-2-yl)-amine
2-Methanesulfonyl-5-phenylethynyl-pyrimidine (100 mg, 3.11 mmol), cyclopentylamine (80 μl, 6.22 mmol) and Et3N (110 μl, 6.22 mmol) were suspended in 1 ml THF and stirred for 1 hour at 65° C. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography by directly loading the crude material onto a silica gel column and eluting with (heptane:ethyl acetate 100:0→0:100). The desired compound was obtained as a white solid (85 mg, 83%), MS: m/e=264.2 (M+H+).

reactant | 2-Methanesulfonyl-5-phenylethynyl-pyrimidine | 3.11 mmol, 100 mg | CS(=O)(=O)C1=NC=C(C=N1)C#CC1=CC=CC=C1 | C13H10N2O2S
reactant | cyclopentylamine | 6.22 mmol, 80 μl | C1(CCCC1)N | C5H11N
reactant | Et3N | 6.22 mmol, 110 μl | CCN(CC)CC | C6H15N
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | Cyclopentyl-(5-phenylethynyl-pyrimidin-2-yl)-amine | C1(CCCC1)NC1=NC=C(C=N1)C#CC1=CC=CC=C1 | C17H17N3
